US06417212B1
To a 20 mL round-bottomed flask equipped for magnetic stirring and fitted with a reflux condenser was added 2-(4-{2-[2-(4-pyrid-3-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester (0.268 mmoles), lithium hydroxide (0.535 mmoles, 0.268 mL of a 2N solution), and ethanol (5 mL). This solution was heated to reflux for 2 h. Distilled water was added to the mixture and the pH was adjusted to 3 using a 1N HCl solution. The organic layer was extracted with ethyl acetate, washed with brine, and concentrated in-vacuo. This crude oil was re-solvated in pure ethyl acetate and filtered over a pad of Celite. The filtrate was concentrated in-vacuo, and the crude oil was crystallized using acetonitrile. The crystals were collected and dried in-vacuo affording 2-(4-{2-[2-(4-pyrid-3-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid. 1H NMR (400 MHz, CDCl3) 8.91 (1H, m), 8.61 (1H, m), 8.08 (2H, m), 7.94 (1H, m), 7.64 (2H, d), 7.45 (1H, m), 7.38 (1H, m), 6.91 (2H, m), 6.78 (2H, m), 4.20 (2H, t), 3.00 (2H, t) 2.39 (3H, s), 1.54 (6H, s).

reactant | 2-(4-{2-[2-(4-pyrid-3-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid ethyl ester | 0.268 mmoles | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C=1C=NC=CC1)=O | C29H30N2O5
reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
product | 2-(4-{2-[2-(4-pyrid-3-yl-phenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methylpropionic acid | N1=CC(=CC=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C27H26N2O5
